US08685969B2
A mixture of 3-(3-bromo-2-methylphenyl)-6-fluoroquinazolin-4(3H)-one (1.2 g, 3.60 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.372 g, 5.40 mmol), potassium acetate (1.061 g, 10.81 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with CH2Cl2 (0.147 g, 0.180 mmol) in dioxane (15 mL) was heated in a sealed vial at 110° C. for 3 h. The mixture was cooled to room temperature, diluted with EtOAc and washed with water. The organic phase was filtered, dried and concentrated. The residue was purified by column chromatography on silica gel (40 g) eluting with EtOAc-hexane (gradient from 20:80 to 40:60) to provide 6-Fluoro-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one as a white glassy foam (1.25 g, 91% yield). LCMS (M+H)+ m/z 380.9.

reactant | 3-(3-bromo-2-methylphenyl)-6-fluoroquinazolin-4(3H)-one | 3.60 mmol, 1.2 g | BrC=1C(=C(C=CC1)N1C=NC2=CC=C(C=C2C1=O)F)C | C15H10BrFN2O
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.40 mmol, 1.372 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 10.81 mmol, 1.061 g | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.180 mmol, 0.147 g | C(Cl)Cl | CH2Cl2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-Fluoro-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazolin-4(3H)-one | 1.25 g, 91% yield | FC=1C=C2C(N(C=NC2=CC1)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C21H22BFN2O3
